US04826866
3-[[3-(Dimethylamino)propyl]amino]-5-methyl-1H-pyrazole-4-carboxylic acid ethyl ester hydrochloride [1:2]
A stirred solution of 7.05 g (0.04 mole) of 4-(3-dimethylaminopropyl)-3-thiosemicarbazide in 50 mL of absolute ethanol under nitrogen atmosphere was treated with 40 mL of 2N ethanolic hydrogen chloride and then with 6.6 g (0.04 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for 2 hr and heated at reflux for 5 hr. The reaction mixture was filtered hot to remove some crystalline sulfur and the filtrate solidified on cooling to give 8.3 g of crude product. After 5 recrystallizations from methyl ethyl ketone/methanol with charcoal treatment of the final recrystallization, a crystalline product was obtained, 3.4 g, mp 195°-196° C. After drying at 82° C. under reduced pressure, it was submitted for elemental analysis.

reactant | 4-(3-dimethylaminopropyl)-3-thiosemicarbazide | 0.04 mole, 7.05 g | CN(CCCNC(NN)=S)C | C6H16N4S
reactant | hydrogen chloride | 2N, 40 mL | Cl | ClH
reactant | ethyl 2-chloroacetoacetate | 0.04 mole, 6.6 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-[[3-(Dimethylamino)propyl]amino]-5-methyl-1H-pyrazole-4-carboxylic acid ethyl ester hydrochloride | 8.3 g | Cl.C(C)OC(=O)C=1C(=NNC1C)NCCCN(C)C | InChI=1S/C12H22N4O2.ClH/c1-5-18-12(17)10-9(2)14-15-11(10)13-7-6-8-16(3)4;/h5-8H2,1-4H3,(H2,13,14,15);1H
